US05710150
Using 0.5 g of (Z)-[1-[4-[2-(2-ethyl-1H-imidazol-1-yl)benzoylamino]benzoyl]-4,4-difluoro-2,3,4,5-tetrahydro-1H-1-benzazepin-5-ylidene]acetic acid and 0.074 ml of cylopropylamine, a similar procedure as in Example 11 was repeated to obtain 325 mg of (Z)-4'-[[5-[(N-cyclopropylcarbamoyl)methylene]-4,4-difluoro-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl]carbonyl]-2-(2-ethyl-1H-imidazol-1-yl) benzanilide.

reactant | (Z)-[1-[4-[2-(2-ethyl-1H-imidazol-1-yl)benzoylamino]benzoyl]-4,4-difluoro-2,3,4,5-tetrahydro-1H-1-benzazepin-5-ylidene]acetic acid | 0.5 g | C(C)C=1N(C=CN1)C1=C(C(=O)NC2=CC=C(C(=O)N3CCC(\C(\C4=C3C=CC=C4)=C/C(=O)O)(F)F)C=C2)C=CC=C1 | C31H26F2N4O4
reactant | cylopropylamine | 0.074 ml | C1(CC1)N | C3H7N
product | (Z)-4'-[[5-[(N-cyclopropylcarbamoyl)methylene]-4,4-difluoro-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl]carbonyl]-2-(2-ethyl-1H-imidazol-1-yl) benzanilide | 325 mg | C1(CC1)NC(=O)\C=C\1/C(CCN(C2=C1C=CC=C2)C(=O)C2=CC=C(NC(C1=C(C=CC=C1)N1C(=NC=C1)CC)=O)C=C2)(F)F | C34H31F2N5O3
